US08076345B2
5-Chloro-2-(4-((6-(dimethylamino)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A mixture of 5-(aminomethyl)-N,N-dimethylpyridin-2-amine (24 mg, 0.16 mmol), 2-(4-bromo-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile (50 mg, 0.14 mmol), and N,N-diisopropylethylamine (62 μL, 0.36 mmol) in acetonitrile (1.9 mL) was subjected to microwave irradiation at 180° C. for 6 hrs. The reaction mixture was concentrated to an oil which was purified by silica gel column (0-15% MeOH/CH2Cl2) to obtain a light yellow solid.

reactant | 5-(aminomethyl)-N,N-dimethylpyridin-2-amine | 0.16 mmol, 24 mg | NCC=1C=CC(=NC1)N(C)C | C8H13N3
reactant | 2-(4-bromo-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-chlorobenzonitrile | 0.14 mmol, 50 mg | BrC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)Cl | C14H10BrClN4
reactant | N,N-diisopropylethylamine | 0.36 mmol, 62 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1.9 mL | C(C)#N | C2H3N
product | 5-Chloro-2-(4-((6-(dimethylamino)pyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)N(C)C)CC1 | C22H22ClN7
